US05726165
Benzyl(4-chlorobenzenesulfonyloxymethyl)phosphinic acid, n-butyl ester
The title compound was prepared from benzylhydroxymethylphosphinic acid, n-butyl ester and 4-chlorobenzenesulfonyl chloride according to the method described in Procedure 32. The resulting white solid (mp 87°-88° C.) was used in the next stage without further purification.

reactant | benzylhydroxymethylphosphinic acid, n-butyl ester | C(C1=CC=CC=C1)P(OCCCC)(=O)CO | C12H19O3P
reactant | 4-chlorobenzenesulfonyl chloride | ClC1=CC=C(C=C1)S(=O)(=O)Cl | C6H4Cl2O2S
product | Benzyl(4-chlorobenzenesulfonyloxymethyl)phosphinic acid, n-butyl ester | C(C1=CC=CC=C1)P(OCCCC)(=O)COS(=O)(=O)C1=CC=C(C=C1)Cl | C18H22ClO5PS
